data/mechanism_extracts/OrgLett/10.1021_acs.orglett.4c01311_sup_1.json
{"doi": "10.1021_acs.orglett.4c01311_sup_1", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical three-component sulfonylation/arylation of styrenes with TsCl and arylboronic acids via a radical pathway", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation generates a sulfonyl radical (Ts•) from TsCl (or tosylate), which adds to the styrene to form a benzylic carbon radical; the aryl group from the arylboronic acid is then installed, likely via further anodic oxidation/transmetalation", "key_intermediates": [{"name": "tosyl (sulfonyl) radical Ts•", "smiles": "Cc1ccc(cc1)S(=O)(=O)[*]", "role": "reactive"}, {"name": "benzylic carbon radical from Ts• addition to p-F-styrene", "smiles": "Cc1ccc(cc1)S(=O)(=O)C[C]c1ccc(F)cc1", "role": "reactive"}, {"name": "TEMPO adduct of benzylic radical (m/z 390.1539 found 390.1552)", "smiles": null, "role": "transient"}, {"name": "TEMPO-Ts adduct (m/z 268.1007 found 268.1003)", "smiles": null, "role": "transient"}, {"name": "DMPO spin adduct of benzylic carbon radical (EPR g=2.0056, AN=15.9 G, AH=21.7 G)", "smiles": null, "role": "transient"}], "electron_flow": "Anodic oxidation generates a sulfonyl radical from TsCl; this Ts• adds across the styrene alkene to give a benzylic C-radical, which is then coupled with the aryl group derived from the arylboronic acid to deliver the 1,2-sulfonyl-aryl product.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction suppressed; TEMPO-Ts adduct (calc 268.1007, found 268.1003) and TEMPO-benzylic carbon radical adduct (calc 390.1539, found 390.1552) detected by HRMS"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Reaction inhibited, supporting radical pathway"}, {"name": "DMPO", "smiles": "CC1(C)CCC=[N+]1[O-]", "purpose": "radical_trap", "observation": "EPR spin adduct observed (g=2.0056, AN=15.9 G, AH=21.7 G), consistent with a carbon-centered radical (benzylic radical after Ts• addition)"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "EPR"], "evidence_strength": "medium", "notes": "A separate Cl-radical trapping experiment using N,N-diallyl-4-methylbenzenesulfonamide with Et4NCl probes whether Cl• is generated under electrolysis (suggesting a possible parallel chlorine radical pathway from TsCl/chloride oxidation). Mechanism is consistent with anodic generation of Ts•, radical addition to styrene, then arylation via the arylboronic acid; the exact step for C–C bond formation with ArB(OH)2 (radical vs radical-polar crossover with oxidation of benzylic radical to cation) is not unambiguously assigned by the probes shown."}
